US06194425B1
N4-(3-Isopropoxypropyl)-3-nitro[1,5]naphthyridin-4-amine (4.2 g, 14.5 mmol), platinum on carbon (1.1 g of 5%), and ethyl acetate (100 mL) were placed in a hydrogenation flask. The mixture was shaken under a hydrogen pressure of 50 psi (3.5 Kg/cm2) for 2.5 hours. The reaction mixture was filtered and the catalyst was washed with ethyl acetate. The filtrate was dried over magnesium sulfate, filtered and then concentrated under vacuum to provide 3.6 g of N4-(3-isopropoxypropyl)[1,5]naphthyridine-3,4-diamine as a bright yellow oil. 1H NMR (300 MHz, CDCl3): δ 8.70 (dd, J=4.1,1.6 Hz, 1H), 8.39 (s, 1H), 8.17 (dd, J=8.4,1.6 Hz, 1H), 7.37 (dd, J=8.4,4.1 Hz, 1H), 5.99 (broad s, 1H), 3.98 (broad s, 2H), 3.63-3.55 (m, 5H), 1.87 (pentet, J=6.2 Hz, 2H), 1.17 (d, J=6.1 Hz, 6H); MS (EI): m/e 260.1630 (260.1637 calc'd for C14H20N4O).

reactant | N4-(3-Isopropoxypropyl)-3-nitro[1,5]naphthyridin-4-amine | 14.5 mmol, 4.2 g | C(C)(C)OCCCNC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C14H18N4O3
catalyst | platinum on carbon | 1.1 g | [Pt] | Pt
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N4-(3-isopropoxypropyl)[1,5]naphthyridine-3,4-diamine | 3.6 g | C(C)(C)OCCCNC1=C(C=NC2=CC=CN=C12)N | C14H20N4O
